US07273865B2
4-Hydroxymethyl-piperidine-1-carboxylic acid (7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-amide
From (7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-carbamic acid phenyl ester with 4-(hydroxymethyl)piperidine and pyridine in dichloroethane and tetrahydrofuran. ES-MS m/e (%): 408 (M+H+, 100).

reactant | (7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC=1SC=2C(=NC=C(C2N1)OC)N1CCOCC1)=O | C18H18N4O4S
reactant | 4-(hydroxymethyl)piperidine | OCC1CCNCC1 | C6H13NO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-Hydroxymethyl-piperidine-1-carboxylic acid (7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-amide | COC=1C2=C(C(=NC1)N1CCOCC1)SC(=N2)NC(=O)N2CCC(CC2)CO | C18H25N5O4S
